US04266056
A mixture of 5-cyano-1-(2,6-dimethylphenyl)uracil (0.01 mol) and 30 ml of 48% HBr is heated at reflux for about 10 hours. After cooling, the solid product is collected by filtering, washed with water and dried to yield 1-(2,6-dimethylphenyl)uracil.

reactant | 5-cyano-1-(2,6-dimethylphenyl)uracil | 0.01 mol | C(#N)C=1C(NC(N(C1)C1=C(C=CC=C1C)C)=O)=O | C13H11N3O2
solvent | HBr | 30 ml | Br | BrH
product | 1-(2,6-dimethylphenyl)uracil | CC1=C(C(=CC=C1)C)N1C(=O)NC(=O)C=C1 | C12H12N2O2
